US08349833B2
7-(2-Chlorophenyl)-2,2-dimethylhept-6-enoic acid ethyl ester (11.75 g, 0.040 mole) was dissolved in acetic acid (80 mL) under an argon atmosphere. The flask was cooled in an ice-water bath. Hydrogen bromide gas was passed slowly through the solution for 3 hours while the solution slowly warmed to room temperature. Ice (250 g) was added and after mixing, the product was extracted with ethyl acetate (2×100 mL). The ethyl acetate extracts were combined and washed with saturated sodium bicarbonate solution (3×75 mL) and water (100 mL). The solution was dried over sodium sulfate, filtered, and concentrated under reduced pressure. The remaining oil (14.06 g) was purified by column chromatography on silica gel (250 g), eluting with 3:1 (followed by 2:1) heptane/ethyl acetate. The product-containing fractions were combined and concentrated under reduced pressure to provide 7-bromo-7-(2-chlorophenyl)-2,2-dimethylheptanoic acid ethyl ester (12.9 g, 86% yield) as a clear oil. 1H NMR (300 MHz, CDCl3/TMS): δ=7.57 (d, 1H, J=7.50 Hz), 7.33-7.15 (m, 3H), 5.43 (t, 1H, J=6.9 Hz), 4.08 (q, 2H, J=7.2 Hz), 2.30-2.21 (m, 2H), 1.55-1.42 (m, 3H), 1.34-1.19 (m, 5H), 1.13 (s, 6H). 13C NMR (75 MHz, CDCl3/TMS): δ=177.72, 139.41, 132.69, 129.67, 129.28, 128.92, 127.48, 60.36, 50.17, 42.26, 40.57, 39.19, 28.59, 25.38, 25.34, 24.45, 14.50. MS (HR, DIP-CI): Calculated for (MH+): 375.0726, found 375.0726.

reactant | 7-(2-Chlorophenyl)-2,2-dimethylhept-6-enoic acid ethyl ester | 0.040 mole, 11.75 g | C(C)OC(C(CCCC=CC1=C(C=CC=C1)Cl)(C)C)=O | C17H23ClO2
reactant | Hydrogen bromide | Br | BrH
solvent | acetic acid | 80 mL | C(C)(=O)O | C2H4O2
product | 7-bromo-7-(2-chlorophenyl)-2,2-dimethylheptanoic acid ethyl ester | 12.9 g, 86% yield | C(C)OC(C(CCCCC(C1=C(C=CC=C1)Cl)Br)(C)C)=O | C17H24BrClO2
